US08420629B2
Step 1. diisopropyl 3-oxocyclobutane-1,1-dicarboxylate
A mixture of diisopropyl 3,3-dimethoxycyclobutane-1,1-dicarboxylate (3 g, 0.01 mol) in 20 mL of trifluoroacetic acid-water (95:5) was stirred at 0° C. for 4 h. The reaction was diluted with EtOAc, washed with water, saturated NaHCO3 solution, and brine, dried over MgSO4 and evaporated to give crude product (2.4 g) as yellow oil, which was used directly in the next step. H NMR (CDCl3, 400 MHz) δ 5.07 (2H, h, J=6.8 Hz), 3.54 (4H, s), 1.23 (12H, d, J=6.8 Hz) ppm.

reactant | diisopropyl 3,3-dimethoxycyclobutane-1,1-dicarboxylate | 0.01 mol, 3 g | COC1(CC(C1)(C(=O)OC(C)C)C(=O)OC(C)C)OC | C14H24O6
solvent | trifluoroacetic acid water | 20 mL | FC(C(=O)O)(F)F.O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | diisopropyl 3-oxocyclobutane-1,1-dicarboxylate | 2.4 g | O=C1CC(C1)(C(=O)OC(C)C)C(=O)OC(C)C | C12H18O5
